US06933304B2
4-(1,3-benzodioxol-5-yl)dihydro-2H-pyran-2,6(3H)-dione:
3-(1,3-benzodioxol-5-yl)pentanedioic acid (2 g, 7.9 mmoles) was suspended in acetic anhydride (50 ml) and refluxed for two hours. The reaction mixture was allowed to cool to room temperature and the solvent was removed under reduced pressure. The residue was triturated with ether to give the product (1.3 g, 70%). 1H NMR (DMSO-d6) δ 6.91 (m, 1H), 6.89 (m, 1H), 6.72 (m, 1H), 6.01 (s, 2H), 3.53-3.41 (m, 1H), 3.07-2.89 (m, 4H).

reactant | 3-(1,3-benzodioxol-5-yl)pentanedioic acid | 7.9 mmoles, 2 g | O1COC2=C1C=CC(=C2)C(CC(=O)O)CC(=O)O | C12H12O6
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(1,3-benzodioxol-5-yl)dihydro-2H-pyran-2,6(3H)-dione | 1.3 g, 70% | O1COC2=C1C=CC(=C2)C2CC(OC(C2)=O)=O | C12H10O5
